US05109012
A solution of sodium nitrite (45 g) in concentrated sulphuric acid (340 ml) was added to a solution of 2,6-dichloro-4-trifluoromethylaniline (140 g) in glacial acetic acid (550 ml) while maintaining the temperature below 25°. The mixture was stirred at room temperature for one hour, and was added quite rapidly to a stirred mixture of ethyl acetoacetate (80 g), sodium acetate (180 g), ethanol (300 ml) and ice-water (3 1). After 1 hour, the brown solid was filtered and dried to give ethyl 2-(2,6-dichloro-4-trifluoromethylphenylhydrazono)-3-oxobutyrate.

reactant | sodium nitrite | 45 g | N(=O)[O-].[Na+]
reactant | 2,6-dichloro-4-trifluoromethylaniline | 140 g | ClC1=C(N)C(=CC(=C1)C(F)(F)F)Cl | C7H4Cl2F3N
reactant | ethyl acetoacetate | 80 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium acetate | 180 g | C(C)(=O)[O-].[Na+]
solvent | sulphuric acid | 340 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 550 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | ethyl 2-(2,6-dichloro-4-trifluoromethylphenylhydrazono)-3-oxobutyrate | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN=C(C(=O)OCC)C(C)=O | C13H11Cl2F3N2O3
